US08283353B2
ethyl 2-[(cis-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]propanoate
To a mixture of 3′-fluoro-4′-{[4-(cis-3-hydroxycyclobutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (659 mg), rhodium(II) acetate (dimer) (31 mg) and methylene chloride (5 mL) was added dropwise ethyl 2-diazopropanoate (359 mg) under an argon atmosphere at 70° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by basic silica gel chromatography [eluent: hexane/ethyl acetate=90/10→70/30 (volume ratio)] to give the title compound as a colorless amorphous compound (553 mg, 69%).

reactant | 3′-fluoro-4′-{[4-(cis-3-hydroxycyclobutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 659 mg | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2C[C@@H](C2)O)=O)C=2C(=CC=CC2)C#N | C27H26FN5O2
reactant | ethyl 2-diazopropanoate | 359 mg | [N+](=[N-])=C(C(=O)OCC)C | C5H8N2O2
catalyst | rhodium(II) acetate | 31 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-[(cis-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]propanoate | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@H]2C[C@H](C2)OC(C(=O)OCC)C)=O)F | C32H34FN5O4
